US06384051B1
N-{4-[(4-Bromophenyl)amino]-3-cyano-6-quinolinyl}-2-butynamide
Dissolved 310 mg (3.68 mmol) 2-butynoic acid in 20 ml THF and chilled to 0° C. under N2. Added 480 μl (3.68 mmol) isobutyl chloroformate and 410 μl (3.72 mmol) N-methylmorpholine. Stirred for 20 minutes and dropwise added a solution of 500 mg (1.47 mmol) 6-amino-4-[(4-bromophenyl)amino]-3-quinolinecarbonitrile in 1 ml DMF and 10 ml THF. Removed ice bath after 15 minutes and stirred at 25° C. overnight. Stripped solvent, slurried residue with water and collected solids. Boiled solids in ethyl acetate, collected, and dried in vacuo, giving 341 mg of yellow solid: mass spectrum (electrospray m/e): M+H=405.1, 407.1.

reactant | 2-butynoic acid | 3.68 mmol, 310 mg | C(C#CC)(=O)O | C4H4O2
reactant | isobutyl chloroformate | 3.68 mmol, 480 μl | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-methylmorpholine | 3.72 mmol, 410 μl | CN1CCOCC1 | C5H11NO
reactant | 6-amino-4-[(4-bromophenyl)amino]-3-quinolinecarbonitrile | 1.47 mmol, 500 mg | NC=1C=C2C(=C(C=NC2=CC1)C#N)NC1=CC=C(C=C1)Br | C16H11BrN4
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | N-{4-[(4-Bromophenyl)amino]-3-cyano-6-quinolinyl}-2-butynamide | 341 mg | BrC1=CC=C(C=C1)NC1=C(C=NC2=CC=C(C=C12)NC(C#CC)=O)C#N | C20H13BrN4O
